US08975282B2
Step 4) 4-(4-(1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamido)-2,5-difluorophenoxy)picolinamide
To a solution of 4-(4-amino-2,5-difluorophenoxy)picolinamide (200 mg, 0.76 mmol), and 1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxylic acid (165 mg, 0.75 mmol) in DCM (10 mL) was added EDCI (175 mg, 0.93 mmol), and HOAT (26 mg, 0.15 mmol). The reaction was stirred at 45° C. for 16 hours, cooled to rt and diluted with EtOAc (20 mL). The solid was collected through filtration, dried at 45° C. in vacuo overnight to give the title compound as a white solid (230 mg, 63.7%).

reactant | 4-(4-amino-2,5-difluorophenoxy)picolinamide | 0.76 mmol, 200 mg | NC1=CC(=C(OC2=CC(=NC=C2)C(=O)N)C=C1F)F | C12H9F2N3O2
reactant | 1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxylic acid | 0.75 mmol, 165 mg | CN1N(C(C(=C1C)C(=O)O)=O)C1=CC=CC=C1 | C12H12N2O3
reactant | EDCI | 0.93 mmol, 175 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOAT | 0.15 mmol, 26 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
product | 4-(4-(1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamido)-2,5-difluorophenoxy)picolinamide | 230 mg, 63.7% | CN1N(C(C(=C1C)C(=O)NC1=CC(=C(OC2=CC(=NC=C2)C(=O)N)C=C1F)F)=O)C1=CC=CC=C1 | C24H19F2N5O4
